US05086062
5-Fluoro-6-[(1,2,3,4-tetrahydro-2-naphthyl)methylamino]benzoxazolin-2-one
In a manner similar to Example 3A starting with 5-fluoro-6-[(3,4-dihydro-2-naphthyl)methylamino]benzoxazolin-2-one but employing palladium carbon (5%) instead of platinum oxide, the title compound was prepared: m.p. 177°-178° C.

reactant | 5-fluoro-6-[(3,4-dihydro-2-naphthyl)methylamino]benzoxazolin-2-one | FC=1C(=CC2=C(NC(O2)=O)C1)NCC1=CC2=CC=CC=C2CC1 | C18H15FN2O2
catalyst | palladium carbon | [C].[Pd]
product | 5-Fluoro-6-[(1,2,3,4-tetrahydro-2-naphthyl)methylamino]benzoxazolin-2-one | FC=1C(=CC2=C(NC(O2)=O)C1)NCC1CC2=CC=CC=C2CC1 | C18H17FN2O2
